datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([O:6][O:7][H:17])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([O:6])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],178.2384
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[O:4]1.[O:5][H:14],46.4424
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([S:4][H:12])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[S:4]([H:12])[H:13],8.368
[C:0]1([H:10])=[C:1]([H:11])[C:2]([C:3]2=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]2[H:17])([H:12])[C:8]([H:18])=[C:9]1[H:19]>>[C:0]1([H:10])=[C:9]([H:19])[C:8]([H:12])([H:18])[C:2]([C:3]2=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]2[H:17])=[C:1]1[H:11],84.0984
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:14])[H:15])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10].[O:4][O:5][H:12],120.9176
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5]([O:6][H:8])[H:7]>>[C:0]([O:1][O:5][O:6][H:8])([H:2])([H:3])[H:4].[H:7],275.524
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([O:12][O:13])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:13][O:12][C:11]([C:10]([C:9]([H:14])([H:15])[H:16])([H:17])[H:18])([H:19])[H:20],56.6814848
[O:0][O:1][c:2]1[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]1[H:12]>>[O:0]1[O:1][C:2]2[C:3]1([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[C:7]2[H:12],172.636024
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]1([C:9]([C:10]([H:27])([H:28])[H:29])[C:11]([H:30])([H:31])[H:32])[H:26])[H:14])([H:12])[H:13],72.5924
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[S:17])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:18])[H:8])([H:6])[H:7].[C:15]([C:16](=[S:17])[H:21])([H:19])[H:20],110.039
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12],0.0
[C:0]([C:1]#[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[H:17]>>[C:0]([C:1](=[C:2][c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:17])([H:9])([H:10])[H:11],13.233992
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])[H:11],86.3159
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])=[C:7]([C:8]#[C:9][H:20])[H:19])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([C:6]([H:16])([H:17])[H:18])[C:7]1([C:8]#[C:9][H:20])[H:19])[H:10],84.3076
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:7],17.2381
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8][H:9]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8][H:9],-1.08784
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:15])([H:3])([H:4])[H:5].[C:10](=[C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([S:17][H:28])([c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:27])[H:8])([H:6])[H:7].[C:15]([C:16]([S:17][H:28])[c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])([H:24])([H:25])[H:26],34.7272
